US04188390
Hydrolysis of ethyl 6,7-dichloro-1,4-benzodioxan-2-carboxylate (5.0 g.) with sodium hydroxide (10%, 10.9 ml.) in ethanol (50 ml.) gave 6,7-dichloro-1,4-benzodioxan-2-carboxylic acid (3.4 g.) m.p. 155°-158° C. with a consistent NMR spectrum and identical Rf (TLC) with an authentic sample.

reactant | ethyl 6,7-dichloro-1,4-benzodioxan-2-carboxylate | 5.0 g | ClC1=CC2=C(OC(CO2)C(=O)OCC)C=C1Cl | C11H10Cl2O4
reactant | sodium hydroxide | 10.9 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6,7-dichloro-1,4-benzodioxan-2-carboxylic acid | 3.4 g | ClC1=CC2=C(OC(CO2)C(=O)O)C=C1Cl | C9H6Cl2O4
